US08604034B2
Dry MeOH (10 mL) was treated with acetyl chloride (1.8 mL, 25 mmol) at 0° C. under nitrogen. The solution was allowed at room temperature and stirred for 15 minutes before being added to a chilled (ice bath) solution of tert-butyl [2-oxo-2-(pyridin-4-yl)ethyl]carbamate (785 mg, 3.0 mmol) in dry MeOH (10 mL). The resulting yellow solution was allowed at room temperature and stirred for 4 hours and then concentrated in vacuo to give the crude 4-(ammonioacetyl)pyridinium dichloride as a yellow solid (600 mg, yield 96%). The material was carried through without purification. 1H-NMR (400 MHz, d6-DMSO): δ 7.35 (t, 1H, 50.8 Hz), 8.01-8.05 (m, 2H), 8.60 (br s, 2H), 8.93-8.97 (m, 2H).

reactant | acetyl chloride | 25 mmol, 1.8 mL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl [2-oxo-2-(pyridin-4-yl)ethyl]carbamate | 3.0 mmol, 785 mg | O=C(CNC(OC(C)(C)C)=O)C1=CC=NC=C1 | C12H16N2O3
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(ammonioacetyl)pyridinium dichloride | 600 mg, yield 96% | [Cl-].[Cl-].[NH3+]CC(=O)C1=CC=[NH+]C=C1 | InChI=1S/C7H8N2O.2ClH/c8-5-7(10)6-1-3-9-4-2-6;;/h1-4H,5,8H2;2*1H
